US05037986
To a stirred solution of 67.1 g (0.322 mole) of 4-chloro-3-nitroquinoline in 800 mL cf dichloromethane was added 54 mL (0.38 mole) of triethylamine and 96 mL (0.96 mole) of 2-amino-2-methyl-1-propanol. The mixture was heated at reflux for one hour, then stirred at about 20° C. for about 16 hours. The mixture was concentrated by evaporation in vacuo and the residue was slurried in 1.5 1 of water. The product was separated by filtration and dried to provide solid 2,2-dimethyl-2-[(3-nitro-4quinolinyl)amino]ethanol. The structural assignment was confirmed by comparison of the nuclear magnetic resonance spectrum to that of a sample which was previously used for elemental analysis. Analysis of earlier sample: Calculated for C13H15N3O2 : %C, 59.8; %H, 5.8; %N, 16.1; Found %C, 59.9; %H, 5.8; %N, 16.1.

reactant | 4-chloro-3-nitroquinoline | 0.322 mole, 67.1 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 0.38 mole, 54 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-2-methyl-1-propanol | 0.96 mole, 96 mL | NC(CO)(C)C | C4H11NO
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-2-[(3-nitro-4quinolinyl)amino]ethanol | CC(CO)(NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])C | C13H15N3O3
